Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Advil Cold and Sinus / ibuprofen
 
Attending: ___.
 
Chief Complaint:
BPH
 
Major Surgical or Invasive Procedure:
TURP

 
History of Present Illness:
___ hx prostate cancer, here for TURP before cyberknife. Now s/p 
uncomplicated channel TURP.
 
Past Medical History:
Hypertension, hypercholesterolemia,
arachnoid brain cyst, hiatal hernia, gastritis, colon polyps,
lumbar spinal stenosis, GERD, depression (years ago).
Vasectomy and tonsillectomy.

 
Social History:
___
Family History:
Two brothers with prostate cancer
 
Physical Exam:
EXAM at Discharge
WDWN, NAD, AVSS
Abdomen soft, non-distended 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
None
 
Brief Hospital Course:
was admitted to Dr. ___ service after 
transurethral greenlight  photovaporization of prostate. No 
concerning intraoperative events occurred; please see dictated
operative note for details. He patient received ___ 
antibiotic prophylaxis. Patient's postoperative course was 
uncomplicated. He received intravenous antibiotics and
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and his Foley was removed after active voiding 
trial and post void residuals were checked. His urine was clear 
yellow and without clots. He remained a-febrile throughout his 
hospital stay.  At discharge, the patient's pain well controlled 
with oral pain medications, tolerating regular diet, ambulating 
without assistance, and voiding without difficulty. He is given 
pyridium and oral pain medications on discharge and a course of 
antibiotics. He is given explicit instructions to follow up in 
clinic. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. oxybutynin chloride 5 mg oral daily once 
3. Simvastatin 20 mg PO QPM 
4. esomeprazole magnesium 20 mg oral daily 
5. Aspirin 81 mg PO DAILY 
6. Cetirizine 10 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Cetirizine 10 mg PO DAILY  
6.  esomeprazole magnesium 20 mg oral daily  
7.  Lisinopril 5 mg PO DAILY  
8.  oxybutynin chloride 5 mg oral daily once  
9.  Simvastatin 20 mg PO QPM  
10.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Revised:  ___

These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

 
Followup Instructions:
___